US06156767
2-[3-(2-tert-Butoxycarbonylaminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester
To a solution of 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-5H-indol-5-yl]-2-methlypropionic acid ethyl ester (584 mg in 10 mL tetrahydrofuran) at 0° C. was added a solution of di-tert-butyl dicarbonate (485 mg in 2 mL tetrahydrofuran) followed by poatssium carbonate (320 mg in 4 mL water) and the resulting suspension stirred vigourously at 0° C. After 20 minutes, the reaction was quenched by the addition of excess saturated aqueous ammonium chloride and the mixture extracted with ethyl acetate. The organic portion was dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (hexane:methylene chloride:ethyl acetate, 7:7:1) to give the title compound (665 mg).

reactant | di-tert-butyl dicarbonate | 2 mL, 485 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | carbonate | 4 mL, 320 mg | C([O-])([O-])=O
reactant | 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-5H-indol-5-yl]-2-methlypropionic acid ethyl ester | 10 mL, 584 mg | C(C)OC(C(C)(C)C1C=C2C(=C(N=C2C=C1)C1=CC(=CC(=C1)C)C)CCN)=O | C24H30N2O2
product | 2-[3-(2-tert-Butoxycarbonylaminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | 665 mg | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNC(=O)OC(C)(C)C)=O | C29H38N2O4
